US04806557
A mixture of (S)-benzyl 4-t-butoxycarbonylamino-4-carboxybutanoate (5 g) (commercially available), N,N'-dicyclohexylcarbodiimide (3.35 g), 4-dimethylaminopyridine (150 mg) and n-pentanol (5.2 g) was stirred in dichloromethane (30 ml) for 18 hours. The resulting N,N'-dicyclohexylurea was removed by filtration and the filtrate evaporated. The residue was dissolved in hexane, filtered and the filtrate evaporated to give (S)-benzyl 4-t-butoxycarbonylamino-4-pentoxycarbonylbutanoate (6 g) as an essentially pure oil.

reactant | (S)-benzyl 4-t-butoxycarbonylamino-4-carboxybutanoate | 5 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)O | C17H23NO6
reactant | N,N'-dicyclohexylcarbodiimide | 3.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | n-pentanol | 5.2 g | C(CCCC)O | C5H12O
catalyst | 4-dimethylaminopyridine | 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-benzyl 4-t-butoxycarbonylamino-4-pentoxycarbonylbutanoate | 6 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCCCCC | C22H33NO6
